US07863283B2
(RS)-N-(Ethoxycarbonyl)-S-methyl-S-[3-({[4-(2-methyl-5-pyridylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]sulphoximide
According to GWP 5, the reaction of N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide (100 mg, 0.22 mmol) with 5-amino-2-methylpyridine (28 mg, 0.26 mmol) and chromatography (silica gel, dichloromethane/methanol: 4/1) gives the desired product in 36% yield (40 mg).

reactant | N′-(2-cyano-5-{3-[(RS)-N-(ethoxycarbonyl)-S-methylsulphonimidoyl]benzyloxy}-4-methoxyphenyl)-N,N-dimethylformimidamide | 0.22 mmol, 100 mg | C(#N)C1=C(C=C(C(=C1)OC)OCC1=CC(=CC=C1)S(=O)(=NC(=O)OCC)C)N=CN(C)C | C22H26N4O5S
reactant | 5-amino-2-methylpyridine | 0.26 mmol, 28 mg | NC=1C=CC(=NC1)C | C6H8N2
solvent | dichloromethane methanol | ClCCl.CO
product | (RS)-N-(Ethoxycarbonyl)-S-methyl-S-[3-({[4-(2-methyl-5-pyridylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]sulphoximide | 36% yield | C(C)OC(=O)N=S(=O)(C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC=1C=CC(=NC1)C)OC)C | C26H27N5O5S
